US07582631B2
Sodium hydroxide (5M, 5 mL) was added to a suspension of N-(2-carbamoylphenyl)-2-chloroisonicotinamide (4.14 g, 15.02 mmol) in acetone/water (1/1, 100 mL). The reaction was heated to reflux and stirred overnight. The resulting solid was put into solution with water and was adjusted to pH 7 using 5M HCl. The precipitate was filtered and concentrated with toluene (3×) to give 2-(2-chloro-pyridin-4-yl)-3H-quinazolin-4-one as a light brown solid. MS (ES−): 256 (M−H)−.

reactant | Sodium hydroxide | 5M, 5 mL | [OH-].[Na+]
reactant | N-(2-carbamoylphenyl)-2-chloroisonicotinamide | 15.02 mmol, 4.14 g | C(N)(=O)C1=C(C=CC=C1)NC(C1=CC(=NC=C1)Cl)=O | C13H10ClN3O2
reactant | water | O | H2O
reactant | HCl | 5M | Cl | ClH
solvent | acetone water | 100 mL | CC(=O)C.O
product | 2-(2-chloro-pyridin-4-yl)-3H-quinazolin-4-one | ClC1=NC=CC(=C1)C1=NC2=CC=CC=C2C(N1)=O | C13H8ClN3O
